********Example S 9.2 ***********************
******* Main circuit begins here**************
M_M4         VD2 VD1 VDD VDD PMOS4  
+ L=0.2u  
+ W=0.64u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M=14
M_M3         VD1 VD1 VDD VDD PMOS4  
+ L=0.2u  
+ W=0.64u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M=14
M_M1         VD1 IN- VD5 0 NMOS4  
+ L=0.2u  
+ W=0.48u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M=6
M_M2         VD2 IN+ VD5 0 NMOS4  
+ L=0.2u  
+ W=0.48u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M=6
M_M5         VD5 VG5 VSS 0 NMOS4  
+ L=0.2u  
+ W=0.48u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M=13
M_M7         VOUT VG5 VSS 0 NMOS4  
+ L=0.2u  
+ W=0.48u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M=13
M_M6         VOUT VD2 VDD VDD PMOS4  
+ L=0.2u  
+ W=0.64u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25e-6  
+ PS=5.25E-6      
+ M=26
M_M8         VG5 VG5 VSS 0 NMOS4  
+ L=0.2u  
+ W=0.48u  
+ AD=1.72E-12  
+ AS=1.72E-12  
+ PD=5.25E-6  
+ PS=5.25E-6      
+ M=13
I_I1         VDD VG5 DC 200uAdc  
V_V2         0 VSS 1Vdc
V_V1         VICM 0 0Vdc
V_V3         VDD 0 1Vdc
V_V4         IN+ VICM  AC 1Vac
+SIN 0 1m 1k 0 0 0
V_V5         IN- VICM  AC -1Vac
+SIN 0 1m 1k 0 0 0
******* Main circuit ends here**************
*****************PMOS and NMOS models begin here*********************
.model PMOS4	PMOS(Level=1 VTO=-0.5 GAMMA=0.3 PHI=0.8 
+		LD=0.01E-06 WD=0 UO=132 LAMBDA=0.11 TOX=5E-9 PB=0.9 CJ=0.93E-3 
+		CJSW=170E-12 MJ=0.5 MJSW=0.35 CGDO=0.35E-9 JS=5E-9 CGBO=0.38E-9
+		CGSO=0.35E-9)
.model NMOS4	NMOS(Level=1 VTO=0.5 GAMMA=0.3 PHI=0.8 
+		LD=0.01E-06 WD=0 UO=370 LAMBDA=0.08 TOX=5E-9 PB=0.9 CJ=0.57E-3 
+		CJSW=120E-12 MJ=0.5 MJSW=0.4 CGDO=0.4E-9 JS=10E-9 CGBO=0.38E-9
+		CGSO=0.4E-9)
*****************PMOS and NMOS models end here*********************
******** Analysis begins here****************
.DC [LIN] V_V1  -1.0 1.0 100m
*.AC  DEC   20  1 10K
*.DC LIN V_V5 -750u 400u 20u

.PROBE
.END
******** Analysis ends here****************
